US04694066
C. 4-(6-Methacryloxyhexyloxy)-4'-nitrobiphenyl
4-(6-Hydroxyhexyloxy)-4'-nitrobiphenyl (22 g) is dissolved in 500 ml of dry dioxane and heated to 45° C. A 14 g quantity of triethylamine is added, then a solution of 10.5 g of methacryloyl chloride in an equal volume of dioxane is added dropwise while maintaining the reaction medium temperature at 45° C.

reactant | 4-(6-Hydroxyhexyloxy)-4'-nitrobiphenyl | 22 g | OCCCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C18H21NO4
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 10.5 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 4-(6-Methacryloxyhexyloxy)-4'-nitrobiphenyl | C(C(=C)C)(=O)OCCCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C22H25NO5
